US06977260B2
{4-[(R)-2-Oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-butoxy}-acetic acid
Rabbit liver esterase (134 units/mg, 1 mg) was added to a solution of {4-[(R)-2-oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-butoxy}-acetic acid methyl ester (10 mg, 0.026 mmol) in acetonitrile (0.2 mL) and pH 7.2 phosphate buffer (3.0 mL). After 24 h, acetonitrile (5 mL) was added and the reaction mixture was concentrated to dryness in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2 →3% MeOH(CH2Cl2, gradient) afforded 7.7 mg (80%) of the title compound.

reactant | {4-[(R)-2-oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-butoxy}-acetic acid methyl ester | 0.026 mmol, 10 mg | COC(COCCCCN1C(CCC[C@@H]1\C=C\C(CC1=CC=CC=C1)=O)=O)=O | C22H29NO5
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
solvent | phosphate | 3.0 mL, pH 7.2 | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | {4-[(R)-2-Oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-butoxy}-acetic acid | 7.7 mg, 80% | O=C1N([C@H](CCC1)\C=C\C(CC1=CC=CC=C1)=O)CCCCOCC(=O)O | C21H27NO5
